US04162328
In an analogous manner to that described in Example 2, from 12-bromododecan-1-ol and cyclopropane carboxylic acid chloride there is obtained cyclopropane carboxylic acid 12-bromododecyl ester of melting point 29°-31° C.

reactant | 12-bromododecan-1-ol | BrCCCCCCCCCCCCO | C12H25BrO
reactant | cyclopropane carboxylic acid chloride | C1(CC1)C(=O)Cl | C4H5ClO
product | cyclopropane carboxylic acid 12-bromododecyl ester | BrCCCCCCCCCCCCOC(=O)C1CC1 | C16H29BrO2
